* G1_BGR standalone capacitance-PEX qualification
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.include ../pex_nominal.spice
.option seed=42001 gmin=1e-15 abstol=1e-14 reltol=1e-5 vntol=1e-7
.global sub!
Vsub sub! 0 0
Vdd vdd 0 3.3
Vr4 r4 0 0
Xbgr vdd 0 r4 vref iptat pbias pcasc vbe dvbe g1_bgr
Vload iptat 0 1
Cload vref 0 1e-12
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerDIO.lib dio_tt
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_io/spice/sg13g2_io.spi
Vdigital vd 0 1.2
XP pad padres vd 0 vdd 0 sg13g2_IOPadAnalog
Rroute vref route_end 613.3424975252701
Vmeasure route_end padres 0
CRa vref 0 3.894078648125e-14
CRb padres 0 3.894078648125e-14
Rexternal pad 0 1000000
.control
set num_threads=1
set numdgt=15
set wr_singlescale
set wr_vecnames
dc temp -40 125 5
wrdata /work/designs/g1-guardian/review/audits/vref-pad-loading-20260922-r2/pad_R1_1000000.0/wave.tsv v(vref) v(padres) v(pad) i(vmeasure) i(vload) i(vdd) i(vdigital)
echo VREF_LOAD_END
quit 0
.endc
.end
