* P1 chain: counted bit probability over 500 clock periods past settling
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerDIO.lib dio_tt
.include ./p1_noise_amp_export.spice
.include ./p1_comparator_export.spice
.option temp = 27.0
.options rshunt = 1e12
VCC_HBT VCC_HBT 0 DC 2.500
VDD VDD 0 DC 1.200
VSS VSS 0 DC 0.000
VCLK_P CLK_P 0 PULSE(1.20 0.0 0 20p 20p 80p 200p)
VCLK_N CLK_N 0 PULSE(0.0 1.20 0 20p 20p 80p 200p)
VTRIM_P TRIM_P 0 DC 1.440
VTRIM_N TRIM_N 0 DC 1.440
.include ./pwl500ns.inc
VRAW_N RAW_NOISE_N 0 DC 1.440
XAMP NOISE_AMP_P NOISE_AMP_N RAW_NOISE_P RAW_NOISE_N VCC_HBT VSS p1_noise_amp
XCOMP PBIT_OUT PBIT_RAW CLK_OUT_DIV NOISE_AMP_P NOISE_AMP_N CLK_P CLK_N TRIM_P TRIM_N VCC_HBT VDD VSS p1_comparator
.control
pre_osdi $PDK_ROOT/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi $PDK_ROOT/libs.tech/ngspice/osdi/psp103_nqs.osdi
tran 5p 300n 0 5p
let ampdiff = v(NOISE_AMP_P) - v(NOISE_AMP_N)
let indiff  = v(RAW_NOISE_P) - v(RAW_NOISE_N)
meas tran in_avg  AVG indiff  from=2n to=20n
meas tran in_max  MAX indiff  from=2n to=20n
meas tran in_min  MIN indiff  from=2n to=20n
meas tran amp_avg AVG ampdiff from=2n to=20n
meas tran amp_max MAX ampdiff from=2n to=20n
meas tran amp_min MIN ampdiff from=2n to=20n
meas tran raw_max MAX v(PBIT_RAW) from=2n to=20n
meas tran raw_min MIN v(PBIT_RAW) from=2n to=20n
let bd = v(NOISE_AMP_P) - v(NOISE_AMP_N)
meas tran amp_rms RMS bd from=200n to=300n
meas tran amp_mean AVG bd from=200n to=300n
meas tran out_max MAX v(PBIT_OUT) from=200n to=300n
meas tran out_min MIN v(PBIT_OUT) from=200n to=300n
meas tran out_avg AVG v(PBIT_OUT) from=200n to=300n
meas tran raw_avg AVG v(PBIT_RAW) from=200n to=300n
wrdata ./bits.dat v(PBIT_OUT)
.endc
.end
